US06197344B1
Preparation of Butorphanol Formulations
To prepare the oil suspension, a predetermined amount of spray-dried butorphanol tartrate (2-10 μm) was placed in a beaker and a predetermined amount of a suspending agent (Span 85) was added and mixed with the drug until a smooth paste was formed. Oil was subsequently added in small portions with continuous stirring until the required volume was achieved. The final product was mixed using a Silverson® high-shear mixer for five minutes at 5,000 rpm and was stored at room temperature for further evaluation.

reactant | butorphanol tartrate | C1=CC2=C(C=C1O)[C@@]34CCCC[C@]3([C@@H](C2)N(CC4)CC5CCC5)O.C(C(C(=O)O)O)(C(=O)O)O
reactant | Span 85 | CCCCCCCC/C=C\CCCCCCCC(=O)OC[C@H]([C@@H]1[C@@H]([C@H](CO1)OC(=O)CCCCCCC/C=C\CCCCCCCC)OC(=O)CCCCCCC/C=C\CCCCCCCC)O | C60H108O8
product | Butorphanol | C1=CC2=C(C=C1O)[C@@]34CCCC[C@]3([C@@H](C2)N(CC4)CC5CCC5)O | C21H29NO2
